US07189741B2
C. Preparation of 2-[2-(4-{1-[2-(benzo[1,3]dioxol-5-yloxy)-ethyl]-1H-indol-3-yl}-piperidin-1-yl)-ethoxy]-benzoic acid
This compound was prepared following the procedure described in example 13 (part D) starting with 2.3 g (6.2 mmol) of 1-[2-(benzo[1,3]dioxol-5-yloxy)-ethyl]-3-piperidin-4-yl-1H-indole and 1.5 g (7.1 mmol) of 2-(2-chloroethoxy)-benzoic acid methyl ester. After standard work-up and recrystallisation with methanol, 1.6 g (49% of yield) of the expected acid were obtained.

reactant | 1-[2-(benzo[1,3]dioxol-5-yloxy)-ethyl]-3-piperidin-4-yl-1H-indole | 6.2 mmol, 2.3 g | O1COC2=C1C=CC(=C2)OCCN2C=C(C1=CC=CC=C21)C2CCNCC2 | C22H24N2O3
reactant | 2-(2-chloroethoxy)-benzoic acid methyl ester | 7.1 mmol, 1.5 g | COC(C1=C(C=CC=C1)OCCCl)=O | C10H11ClO3
product | 2-[2-(4-{1-[2-(benzo[1,3]dioxol-5-yloxy)-ethyl]-1H-indol-3-yl}-piperidin-1-yl)-ethoxy]-benzoic acid | O1COC2=C1C=CC(=C2)OCCN2C=C(C1=CC=CC=C21)C2CCN(CC2)CCOC2=C(C(=O)O)C=CC=C2 | C31H32N2O6
